US03965151
Preparation of 11b-(2-Chlorophenyl)-10-nitro-2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]-benzodiazepin-6(7H)-one
A solution of 5.2 g of (0.02 M) of stannic chloride in 60 ml of dry ethylene dichloride under nitrogen was treated with 2.9 g (0.0091 M) of 5-(2-chlorophenyl)-1,3-dihydro-7-nitro-2H-1,4-benzodiazepin-2-one. The reaction was cooled in an ice bath, and 2.6 g (0.06 M) of ethylene oxide in 10 ml of ethylene dichloride was added with stirring over an 8 min period. After 18 hr at room temperature, the solution was made basic with concentrated ammonium hydroxide and filtered. The filtrates were washed with a saturated solution of brine, dried over anhydrous sodium sulfate and evaporated to dryness. The residue was crystallized from a mixture of dichloromethane, methanol and petroleum ether to give the above named product as white rods, melting at 201°-203°.

reactant | 5-(2-chlorophenyl)-1,3-dihydro-7-nitro-2H-1,4-benzodiazepin-2-one | 0.0091 M, 2.9 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C=C2)[N+](=O)[O-])=O | C15H10ClN3O3
reactant | ethylene oxide | 0.06 M, 2.6 g | C1CO1 | C2H4O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethylene dichloride | 60 ml | C(CCl)Cl | C2H4Cl2
solvent | ethylene dichloride | 10 ml | C(CCl)Cl | C2H4Cl2
product | 11b-(2-Chlorophenyl)-10-nitro-2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]-benzodiazepin-6(7H)-one | ClC1=C(C=CC=C1)C12N(CC(NC3=C1C=C(C=C3)[N+](=O)[O-])=O)CCO2 | C17H14ClN3O4
